US03981932
To 17.3 g. of ethyl 3-amino-4-cyclohexylphenylglyoxylate in 11.1 ml. of concentrated hydrochloric acid and 20 g. of ice is added 4.1 g. of sodium nitrite in 2 ml. of water. This mixture is stirred for 10 min. and then added gradually to an ice cold solution of 10.3 g. of potassium ethyl xanthate in 14 ml. of water. The reaction is gradually heated over 45 minutes to 50°C and stirred an additional 45 minutes. The mixture is then cooled, extracted with ether which is then washed with water, dilute sodium hydroxide and water, dried over sodium sulfate and evaporated in vacuo. The residue is dissolved in 35 ml. of boiling ethanol to which is added gradually 13 g. of potassium hydroxide. The reaction is refluxed an additional hour and then evaporated to dryness in vacuo. The residue is dissolved in water and extracted with ether. The alkaline phase is acidified with 6N sulfuric acid and extracted with ether. The ether is washed with water, dried over sodium sulfate and evaporated to dryness to obtain 3-mercapto-4-cyclohexylphenylglyoxylic acid.

reactant | ethyl 3-amino-4-cyclohexylphenylglyoxylate | NC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C16H21NO3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | potassium ethyl xanthate | O(C(=S)[S-])CC.[K+]
solvent | water | O | H2O
product | 3-mercapto-4-cyclohexylphenylglyoxylic acid | SC=1C=C(C=CC1C1CCCCC1)C(C(=O)O)=O | C14H16O3S
